US07977344B2
Tetrahydro-2H-pyran-3-ylacetaldehyde
To a stirring solution of 3-[2-(methoxy)ethenyl]tetrahydro-2H-pyran (2.22 gm) in THF (15 ml) was added 2N hydrochloric acid (15 ml). After 1 h the mixture was diluted with water and extracted three times with ether. The combined extracts were washed with brine, dried (Na2SO4) and evaporated to give the title product as a pale yellow oil, yield 1.79 g.

reactant | 3-[2-(methoxy)ethenyl]tetrahydro-2H-pyran | 2.22 gm | COC=CC1COCCC1 | C8H14O2
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Tetrahydro-2H-pyran-3-ylacetaldehyde | O1CC(CCC1)CC=O | C7H12O2
